US07923450B2
a) 6-[1-Dimethylamino-methylidene]-2-(4-fluoro-phenyl)-cyclohexanone (U11a)
2-(4-Fluoro-phenyl)-cyclohexanone (102 mg, 0.53 mmol) was reacted with tert.-butoxy-bis-(dimethylamino)-methane using in analogous manner the procedure described in example 45a) to give crude title compound (143 mg) as a red oil which was used directly in the next step. MS ISP (m/e): 248.1 [(M+H)+].

reactant | 2-(4-Fluoro-phenyl)-cyclohexanone | 0.53 mmol, 102 mg | FC1=CC=C(C=C1)C1C(CCCC1)=O | C12H13FO
reactant | tert.-butoxy-bis-(dimethylamino)-methane | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 6-[1-Dimethylamino-methylidene]-2-(4-fluoro-phenyl)-cyclohexanone | 143 mg | CN(C=C1CCCC(C1=O)C1=CC=C(C=C1)F)C | C15H18FNO
